US06451810B1
Triethylamine (66.8 g, 0.33 mol) was added to a solution of tert-butyl N-(2-aminoethyl)carbamate (55.0 g, 0.34 mol) in anhydrous dichloromethane (500 mL). 4-Chloro-3-nitroquinoline was slowly added and the reaction exothermed. The reaction mixture was allowed to stir at ambient temperature overnight. The resulting precipitate was isolated by filtration to provide product as a yellow solid. The filtrate was washed with water, dried over magnesium sulfate and then concentrated under vacuum. The resulting residue was slurried with hexane and filtered to provide additional product as a yellow solid. The two crops were combined to provide 101 g of tert-butyl N-[2-(3-nitroquinolin-4-yl)aminoethyl]carbamate as a yellow solid, m.p. 157-158.

reactant | Triethylamine | 0.33 mol, 66.8 g | C(C)N(CC)CC | C6H15N
reactant | tert-butyl N-(2-aminoethyl)carbamate | 0.34 mol, 55.0 g | NCCNC(OC(C)(C)C)=O | C7H16N2O2
reactant | 4-Chloro-3-nitroquinoline | ClC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C9H5ClN2O2
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | tert-butyl N-[2-(3-nitroquinolin-4-yl)aminoethyl]carbamate | 101 g | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NCCNC(OC(C)(C)C)=O | C16H20N4O4
